US05008426
2. 6-(2-Methylbenzoyl)-(6H)-dibenz[c,e][1,2]oxaphosphorin 6-oxide
61.8 g (0.4 mol) of 2-methylbenzoyl chloride were warmed to 80° C. under a nitrogen atmosphere. 92 g (0.4 mol) of 6-methoxy-(6H)-dibenz[c,e][1,2]-oxaphosphorin were added dropwise over the course of two to three hours while stirring. The temperature was then increased in steps to 115° C. When the reaction was complete, 50 ml of acetone were added at room temperature. After crystallization, 103 g (77% of theory) of the above-mentioned compound of melting point 102° to 104° C. were obtained.

reactant | 2-methylbenzoyl chloride | 0.4 mol, 61.8 g | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
reactant | 6-methoxy-(6H)-dibenz[c,e][1,2]-oxaphosphorin | 0.4 mol, 92 g | COP1OC2=C(C3=C1C=CC=C3)C=CC=C2 | C13H11O2P
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 6-(2-Methylbenzoyl)-(6H)-dibenz[c,e][1,2]oxaphosphorin 6-oxide | CC1=C(C(=O)P2(OC3=C(C4=C2C=CC=C4)C=CC=C3)=O)C=CC=C1 | C20H15O3P
